US04126611
2-(Hexahydroazepin-2-ylidenamino)-1-phenylcyclopentanol hydrochloride
Following the procedure described in Example 1, only substituting for cis-2-phenylcyclopentylamine hydrochloride an appropriate amount of 2-hydroxy-2-phenylcyclopentylamine hydrochloride and employing a reaction time of 47 days the desired product was obtained, M.P. 261°-262° C.

reactant | cis-2-phenylcyclopentylamine hydrochloride | Cl.C1(=CC=CC=C1)[C@@H]1[C@@H](CCC1)N
reactant | 2-hydroxy-2-phenylcyclopentylamine hydrochloride | Cl.OC1(C(CCC1)N)C1=CC=CC=C1
product | 2-(Hexahydroazepin-2-ylidenamino)-1-phenylcyclopentanol hydrochloride | Cl.N1C(CCCCC1)=NC1C(CCC1)(O)C1=CC=CC=C1 | InChI=1S/C17H24N2O.ClH/c20-17(14-8-3-1-4-9-14)12-7-10-15(17)19-16-11-5-2-6-13-18-16;/h1,3-4,8-9,15,20H,2,5-7,10-13H2,(H,18,19);1H
